US07166746B2
A solution of 1.3 g (3.1 mmol) 2-(4-chloro-phenyl)-N-(4′-hydroxy-3′-methoxy-biphenyl-2-yl)-2-prop-2-ynyloxy-acetamide, 6.0 ml (6.0 mmol) of a 1 M solution of sodium methoxide in methanol and 0.5 g (4.7 mmol) 2-pentynyl chloride in 50 ml of methanol is heated to reflux for 3 hours. After cooling, the reaction mixture is poured into ethyl acetate. The organic layer is washed with brine, dried over sodium sulfate and evaporated. The remaining product is subjected to flash-chromatography (ethyl acetate/hexane 4:6) to yield 2-(4-chlorophenyl)-N-(3′-methoxy-4′-pent-2-ynyloxy-biphenyl-2-yl)-2-prop-2-ynyloxy-acetamide as yellow oil.

reactant | 2-(4-chloro-phenyl)-N-(4′-hydroxy-3′-methoxy-biphenyl-2-yl)-2-prop-2-ynyloxy-acetamide | 3.1 mmol, 1.3 g | ClC1=CC=C(C=C1)C(C(=O)NC1=C(C=CC=C1)C1=CC(=C(C=C1)O)OC)OCC#C | C24H20ClNO4
reactant | sodium methoxide | C[O-].[Na+]
reactant | 2-pentynyl chloride | 4.7 mmol, 0.5 g | C(C#CCC)Cl | C5H7Cl
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | CO | CH4O
solvent | methanol | 50 ml | CO | CH4O
product | 2-(4-chlorophenyl)-N-(3′-methoxy-4′-pent-2-ynyloxy-biphenyl-2-yl)-2-prop-2-ynyloxy-acetamide | ClC1=CC=C(C=C1)C(C(=O)NC1=C(C=CC=C1)C1=CC(=C(C=C1)OCC#CCC)OC)OCC#C | C29H26ClNO4
